US07592456B2
6-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}-9H-purine
A mixture of sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate [prepared according to the method of Example 10(a) Steps 1-2] (104 mg, 0.34 mmol) and 6-bromopurine (70 mg, 0.35 mmol) in dimethylsulfoxide (4 mL) was stirred at 80° C. (oil bath temperature) under nitrogen for 22 hours. The cooled reaction mixture was diluted with water (20 mL), the preciptate formed collected under suction, washed with water and dried in vacuo. Purification by flash chromatography, eluting with 5% methanol in dichloromethane, gave the title compound as a white solid (33 mg, 25%). 1H NMR (500 MHz, DMSO-d6) δ 14.06 (1H, br s), 9.04 (1H, s), 8.92 (1H, s), 8.86 (1H, s), 8.38 (1H, s), 8.35 (1H, d, J 8.7 Hz), 8.23 (1H, d, J 8.7 Hz), 8.05 (2H, m), 7.92 (2H, m), 7.38 (2H, m); m/z (ES+) 405 [MH+].

reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
reactant | 6-bromopurine | 0.35 mmol, 70 mg | BrC1=C2NC=NC2=NC=N1 | C5H3BrN4
solvent | dimethylsulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | 6-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}-9H-purine | 33 mg, 25% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C2N=CNC2=NC=N1 | C21H13FN4O2S
